US08633175B2
A solution of 4,4-dimethylcyclohexanecarbaldehyde (6.6 g, 0.047 mol), benzylamine (5.0 g, 0.047 mol) and acetic acid (1 mL) in methanol (60 mL) was stirred for 30 min at room temperature. Sodium triacetoxyborohydride (10.0 g, 0.047 mol) was added in one portion and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated in vacuo and partitioned between dichloromethane and water. The organic phase was washed with brine, silica gel was added and the mixture was concentrated in vacuo. The residue was purified by flash chromatography (CH2Cl2/MeOH), affording [(4,4-dimethyl cyclohexyl)methyl](phenylmethyl)amine as a white solid. (M+H) 232, 1.76 min. (LC/MS method B).

reactant | 4,4-dimethylcyclohexanecarbaldehyde | 0.047 mol, 6.6 g | CC1(CCC(CC1)C=O)C | C9H16O
reactant | benzylamine | 0.047 mol, 5.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.047 mol, 10.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | [(4,4-dimethyl cyclohexyl)methyl](phenylmethyl)amine | CC1(CCC(CC1)CNCC1=CC=CC=C1)C | C16H25N
